US07141637B2
c) 3-(4-tert-Butyl-phenyl)-2,5-dimethyl-6H-cyclopenta[b]thiophene.
To a solution containing 12.9 g (43 mmol) 3-(4-tert-Butyl-phenyl)-2,5-dimethyl-5,6-dihydro-cyclopenta[b]thiophen-4-one dissolved in 100 ml diethyl ether was added 22 mmol lithium aluminum hydride (1M in diethyl ether, 22 ml added) at room temperature. The reaction mixture was stirred for 2.5 h, then a saturated solution of ammonium chloride was slowly added (3 ml). The solids were filtered and the organics were collected with 30% dichloromethane/70% hexane, washed with water, dried over magnesium sulfate, filtered, then solvents removed in vacuo. The partially dehydrated product (12.3 g of a brown oil), was dissolved in 50 ml toluene and a catalytic amount of para-toluenesulfonic acid monohydride (0.25 g) was added, The flask contents were refluxed for 1 h, then stirred at room temperature overnight. The organic fraction was washed with water, dried over magnesium sulfate, filtered, then solvents removed in vacuo. Yield: 10.1 g (77.4%) dark brown oil. Olefin: (2 isomers); 1H NMR (CD2Cl2): δ 7.1–7.7 (m, 4H), 6.4–6.5 (2s, 1H), 3.18, 3.3 (2s, 2H), 2.4–2.6 (m, 3H), 2.18 (m, 3H), 1.4 (s, 12H).

reactant | 3-(4-tert-Butyl-phenyl)-2,5-dimethyl-5,6-dihydro-cyclopenta[b]thiophen-4-one | 43 mmol, 12.9 g | C(C)(C)(C)C1=CC=C(C=C1)C=1C2=C(SC1C)CC(C2=O)C | C19H22OS
reactant | lithium aluminum hydride | 22 mmol, 1M, 22 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-(4-tert-Butyl-phenyl)-2,5-dimethyl-6H-cyclopenta[b]thiophene | C(C)(C)(C)C1=CC=C(C=C1)C=1C2=C(SC1C)CC(=C2)C | C19H22S
